US07691882B2
3-Pyridin-2-yl-benzaldehyde
To a mixture of 3-bromobenzaldehyde (930 mg, 5.0 mmol) and toluene (10 mL) were added tri-n-butyl (2-pyridyl) tin (2.1 g, 5.6 mmol) and bis(triphenylphosphine)palladium (II) chloride (350 mg, 0.50 mmol), and the reaction mixture was refluxed for 5 hours. The reaction mixture was cooled to room temperature, and saturated aqueous potassium fluoride solution (1 mL) was added at that temperature and stirred for 30 minutes at room temperature. Water and ethyl acetate were added to the reaction mixture, which was then filtered through a Celite pad. The organic layer of the filtrate was separated and washed with saturated aqueous sodium chloride. The solvent was evaporated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (530 mg, 58%).

reactant | 3-bromobenzaldehyde | 5.0 mmol, 930 mg | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | tri-n-butyl (2-pyridyl) tin | 5.6 mmol, 2.1 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | potassium fluoride | 1 mL | [F-].[K+]
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.50 mmol, 350 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 3-Pyridin-2-yl-benzaldehyde | 530 mg, 58% | N1=C(C=CC=C1)C=1C=C(C=O)C=CC1 | C12H9NO
